US05281742
Bis(2-chloro-4-fluoro-5-nitrophenyl)carbonate (233 g, 0.57 mol), toluene (2300 ml) as a solvent, and 5 % Pd/C (17.4 g) as a catalyst were put in a 5-liter round-bottom flask as equipped with a stirrer, and hydrogen gas was introduced thereinto with vigorously stirring. With progress of the reaction, the reaction system became exothermic. By introduction of hydrogen gas into the reaction system at such a rate that no hydrogen gas leaked out from the system, the reaction temperature was maintained to fall within the range of from 50° to 60° C. After reaction, the reaction mixture was heated (80° to 100° C.), and the used catalyst was taken out therefrom by filtration. The by-produced water was removed form the resulting filtrate, which was fully dried with anhydrous magnesium sulfate. The drying agent was taken out by filtration, and the solvent was removed by distillation under reduced pressure to obtain bis(2-chloro-4-fluoro-5-aminophenyl)carbonate (143 g, 0.41 mol) as a white solid. Yield: 71.9 %.

reactant | Bis(2-chloro-4-fluoro-5-nitrophenyl)carbonate | 0.57 mol, 233 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])OC(OC1=C(C=C(C(=C1)[N+](=O)[O-])F)Cl)=O | C13H4Cl2F2N2O7
reactant | hydrogen | [H][H] | H2
solvent | toluene | 2300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd/C | 17.4 g | [Pd] | Pd
product | bis(2-chloro-4-fluoro-5-aminophenyl)carbonate | 0.41 mol, 143 g, Yield: 71.9 % | ClC1=C(C=C(C(=C1)F)N)OC(OC1=C(C=C(C(=C1)N)F)Cl)=O | C13H8Cl2F2N2O3
